Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Thrombus of Bypass Graft
 
Major Surgical or Invasive Procedure:
R CFA endarterectomy, ___ angioplasty

 
History of Present Illness:
___ gentleman who previously underwent a femoral to 
posterior tibial bypass with both inflow disease and outflow 
disease. The patient has undergone
a common femoral endarterectomy which will be dictated 
separately, and the distal anastomosis we treat endovascularly.

 
Past Medical History:
PMH: PVD, Diabetes since ___ yoa, HTN, CVA ___ years ago s/p car 
accident, perioperative occipital lobe stroke ___

PSH: ___ Balloon angioplasty  of left superficial femoral 
artery. ___ Redo left below-knee popliteal to posterior 
tibial artery bypass with right basilic arm vein; RLE fem ___ 
___, Debridement right ___ toe ___ hallux 
amputation ___, LLE bypass x 2 (___), RLE knee 
surgery ___ years ago, gastric ulcer surgery 

 
Social History:
___
Family History:
N/C
 
Pertinent Results:
___ 12:50PM   GLUCOSE-214* UREA N-26* CREAT-0.9 SODIUM-137 
POTASSIUM-4.1 CHLORIDE-102 TOTAL CO2-28 ANION GAP-11
___ 12:50PM   GLUCOSE-214* UREA N-26* CREAT-0.9 SODIUM-137 
POTASSIUM-4.1 CHLORIDE-102 TOTAL CO2-28 ANION GAP-11
___ 12:50PM   HCT-30.6*
___ 11:04AM   TYPE-ART PO2-279* PCO2-33* PH-7.48* TOTAL 
CO2-25 BASE XS-2 INTUBATED-INTUBATED VENT-CONTROLLED
___ 11:04AM   GLUCOSE-268* LACTATE-1.8 NA+-139 K+-2.9* 
CL--104
___ 11:04AM   HGB-11.2* calcHCT-34
___ 11:04AM   freeCa-1.08*
___ 09:53AM   TYPE-ART PO2-307* PCO2-32* PH-7.50* TOTAL 
CO2-26 BASE XS-2 INTUBATED-INTUBATED
___ 09:53AM   GLUCOSE-327* LACTATE-1.6 NA+-136 K+-4.0 
CL--100
___ 09:53AM   HGB-12.2* calcHCT-37

 
Brief Hospital Course:
Patient was admitted to ___ after undergoing revsion of his 
right lower extremity bypass, common femoral to posterior 
tibial. The procedure was uncomplicated, please see the dictated 
operative report for details of the procedure. He was 
transferred to the PACU in good condition, please see the 
dictated operative report for details of the procedure.

He had some minor bleeding from his surgical incision, which was 
controlled with pressure. He was advanced to a regular diet on 
POD 1 and started on his home insulin regimen. His other home 
medications were also restarted on POD 1. He was monitored for 
signs of continued bleeding, of which there were none. He was 
transitioned to oral pain medications once taking a regular 
diet. On the day of discharge he was tolerating a regular diet, 
voiding without assistance and ambulatory. He was deemed safe 
for discharge and was discharged home without services.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. lisinopril-hydrochlorothiazide *NF* ___ mg Oral BID 
2. Gabapentin 100 mg PO TID 
3. ammonium lactate *NF* 12 % Topical BID 
4. Atenolol 25 mg PO DAILY 
5. Timolol Maleate 0.5% 1 DROP BOTH EYES DAILY 
6. ezetimibe-simvastatin *NF* ___ mg Oral DAILY 
7. Amlodipine 5 mg PO DAILY 
8. Ranitidine 150 mg PO DAILY 
9. Glargine 44 Units Lunch
Insulin SC Sliding Scale using HUM Insulin
10. Clopidogrel 75 mg PO DAILY 
11. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES HS 
12. Aspirin 325 mg PO DAILY 
13. Citalopram 20 mg PO DAILY 
14. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1. Amlodipine 5 mg PO DAILY 
2. Aspirin 325 mg PO DAILY 
3. Atenolol 25 mg PO DAILY 
4. Clopidogrel 75 mg PO DAILY 
5. Gabapentin 100 mg PO TID 
6. Ranitidine 150 mg PO DAILY 
7. Timolol Maleate 0.5% 1 DROP BOTH EYES DAILY 
8. ammonium lactate *NF* 12 % Topical BID 
9. ezetimibe-simvastatin *NF* ___ mg Oral DAILY 
10. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES HS 
11. lisinopril-hydrochlorothiazide *NF* ___ mg ORAL BID 
12. Vitamin D 1000 UNIT PO DAILY 
13. TraMADOL (Ultram) 50 mg PO Q6H:PRN pain 
RX *tramadol 50 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*50 Tablet Refills:*0
14. Acetaminophen 650 mg PO Q6H:PRN pain 
15. Citalopram 20 mg PO DAILY 
16. Glargine 44 Units Lunch
Insulin SC Sliding Scale using HUM Insulin

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Thrombus of right fem-tib bypass graft

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Division of Vascular and Endovascular Surgery
Lower Extremity Bypass Surgery Discharge Instructions

WHAT TO EXPECT:
1. It is normal to feel tired, this will last for ___ weeks 
•You should get up out of bed every day and gradually increase 
your activity each day 
•Unless you were told not to bear any weight on operative foot: 
you may walk and you may go up and down stairs 
•Increase your activities as you can tolerate- do not do too 
much right away!
2. It is normal to have swelling of the leg you were operated 
on:
•Elevate your leg above the level of your heart (use ___ 
pillows or a recliner) every ___ hours throughout the day and at 
night
•Avoid prolonged periods of standing or sitting without your 
legs elevated
3. It is normal to have a decreased appetite, your appetite will 
return with time 
•You will probably lose your taste for food and lose some 
weight 
•Eat small frequent meals
•It is important to eat nutritious food options (high fiber, 
lean meats, vegetables/fruits, low fat, low cholesterol) to 
maintain your strength and assist in wound healing
•To avoid constipation: eat a high fiber diet and use stool 
softener while taking pain medication

MEDICATION:
•Take aspirin as instructed 
•Follow your discharge medication instructions

ACTIVITIES:
•No driving until post-op visit and you are no longer taking 
pain medications
•Unless you were told not to bear any weight on operative foot: 

•You should get up every day, get dressed and walk
•You should gradually increase your activity
•You may up and down stairs, go outside and/or ride in a car
•Increase your activities as you can tolerate- do not do too 
much right away!
•No heavy lifting, pushing or pulling (greater than 5 pounds) 
until your post op visit 
•You may shower (unless you have stitches or foot incisions) no 
direct spray on incision, let the soapy water run over incision, 
rinse and pat dry
•Your incision may be left uncovered, unless you have small 
amounts of drainage from the wound, then place a dry dressing 
over the area that is draining, as needed

CALL THE OFFICE FOR: ___
•Redness that extends away from your incision
•A sudden increase in pain that is not controlled with pain 
medication
•A sudden change in the ability to move or use your leg or the 
ability to feel your leg
•Temperature greater than 100.5F for 24 hours
•Bleeding, new or increased drainage from incision or white, 
yellow or green drainage from incisions

 
Followup Instructions:
___